US03996184
The amidosilanes can be prepared, by the following illustration: mixing a sodium salt of N-methylacetamide with methylvinyldichlorosilane in an inert organic solvent such as toluene, filtering the by-produced sodium chloride from the toluene-product solution and thereafter removing the toluene by vacuum distillation to obtain the product, methylvinyldi-(N-methylacetamido)silane.

reactant | sodium | [Na] | Na
reactant | N-methylacetamide | CNC(C)=O | C3H7NO
reactant | methylvinyldichlorosilane | CC=C[SiH](Cl)Cl | C3H6Cl2Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methylvinyldi-(N-methylacetamido)silane | CC=C[SiH](N(C(C)=O)C)N(C(C)=O)C | C9H18N2O2Si
